US08314117B2
(5S,6S,9R)-5-amino-6-(3,5-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate.
In a 100 mL round-bottom flask was suspended (5S,6S,9R)-5-azido-6-(3,5-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-ol (46 mg, 0.145 mmol) (azeotroped with dry benzene) and 4-nitrophenyl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate (66.9 mg, 0.175 mmol) in dimethylformamide (1 mL) under nitrogen. After cooling to −15° C. (ice-methanol bath), NaHMDS (0.393 mL, 0.393 mmol) was added dropwise. The resulting tan solution was stirred under nitrogen at −10° C.˜0° C. for 2 h and at room temperature for 2 h. LCMS showed good conversion. The reaction was quenched with sodium bicarbonate solution. The mixture was diluted with ethyl acetate. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with water, brine, dried with sodium sulfate, and concentrated to give a tan oil. Purification by FCC up to 8% methanol/methylene chloride afforded the desired product (62 mg, 76%) as a white solid.

reactant | (5S,6S,9R)-5-azido-6-(3,5-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-ol | 0.145 mmol, 46 mg | N(=[N+]=[N-])[C@H]1[C@@H](CC[C@H](C2=NC=CC=C21)O)C2=CC(=CC(=C2)F)F | C16H14F2N4O
reactant | 4-nitrophenyl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate | 0.175 mmol, 66.9 mg | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C18H17N5O5
reactant | NaHMDS | 0.393 mmol, 0.393 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | (5S,6S,9R)-5-amino-6-(3,5-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate | 62 mg, 76% | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)O[C@@H]1CC[C@H]([C@@H](C=2C1=NC=CC2)N)C2=CC(=CC(=C2)F)F | C28H28F2N6O3
